US09126998B2
N-(9-Cyclopropyl-9-azabicyclo[3.3.1]non-3-yl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide
70 mg of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid (0.22 mmol), 209 mg of O-(7-azabenzotriazol-1-yl)-N,N,N′N′-tetramethyluronium hexafluorophosphate (HATU, 0.55 mmol) and 85 mg of N,N-diisopropylethylamine (0.66 mmol) were initially charged in 1.5 ml of DMF and stirred for 15 min. 59 mg of 9-cyclopropyl-9-azabicyclo[3.3.1]nonane-3-amine (0.33 mmol) were added, and the mixture was stirred at RT overnight. The mixture was then stirred overnight once more, at 60° C. 12 ml of water were added to the reaction solution, and the precipitate formed was filtered off, washed with water and dried. The residue formed was purified by silica gel chromatography (mobile phase: dichloromethane/methanol 40:1). This gave 60 mg of the title compound (53% of theory, purity 94%).

reactant | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.22 mmol, 70 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C16H12F2N2O3
reactant | HATU | 0.55 mmol, 209 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.66 mmol, 85 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 9-cyclopropyl-9-azabicyclo[3.3.1]nonane-3-amine | 0.33 mmol, 59 mg | C1(CC1)N1C2CC(CC1CCC2)N | C11H20N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | water | 12 ml | O | H2O
product | N-(9-Cyclopropyl-9-azabicyclo[3.3.1]non-3-yl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | C1(CC1)N1C2CC(CC1CCC2)NC(=O)C2=C(N=C1N2C=CC=C1OCC1=C(C=CC=C1F)F)C | C27H30F2N4O2
